US06977260B2
Palladium on carbon (10 wt. %, 15 mg) was added to a solution of [(Z)-4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-enyloxy]-acetic acid ethyl ester (290 mg, 1.02 mmol) in EtOH (3.0 mL). A hydrogen atmosphere was established by evacuating and refilling with hydrogen (3×) and the reaction mixture was stirred under a balloon of hydrogen for 3 h. The reaction mixture was filtered through celite, washing with EtOH, and the filtrate was concentrated in vacuo to afford 295 mg (quant. crude) of [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester.

reactant | [(Z)-4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-enyloxy]-acetic acid ethyl ester | 1.02 mmol, 290 mg | C(C)OC(COC\C=C/CN1[C@H](CCCC1=O)CO)=O | C14H23NO5
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 15 mg | [Pd] | Pd
solvent | EtOH | 3.0 mL | CCO | C2H6O
product | [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester | 295 mg | C(C)OC(COCCCCN1[C@H](CCCC1=O)CO)=O | C14H25NO5
